US09328111B2
Step 3: Tert-butyl 3-oxo-7,8,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridine-9(3H)-carboxylate
A solution of 2-tert-butyl 6-methyl 5-oxo-3,4,5,10-tetrahydrobenzo[b][1,7]naphthyridine-2,6(1H)-dicarboxylate (0.55 g) and hydrazine hydrate (2.5 mL) in DMA (4 mL) was heated at 130° C. for 2.0 h, acetic acid (4 mL) was added and the mixture was stirred at 130° C. for another 6 hours. The reaction mixture was cooled to room temperature, then water (30 mL) and EtOAc (100 mL) were added. The organic phase was separated and then washed with aqueous NaHCO3 (2×10 ml) and brine (20 ml), dried with Na2SO4 and filtered. The organic phase was concentrated in vacuum to give the crude product, which was then recrystallized from MeOH to afford the product (110 mg, 21%) as a yellow solid. 1H NMR (DMSO-d6) δ 11.7 (s, 1H), 10.52 (s, 1H), 7.60 (t, 1H, J=8.0 Hz), 7.43 (d, 1H, J=8.0 Hz), 7.21 (d, 1H, J=8.0 Hz), 4.22 (s, 2H), 3.54-3.55 (m, 2H), 2.30-2.33 (m, 2H), and 1.40 (s, 9H). MS (ESI) m/e [M+1]+341.0.

reactant | 2-tert-butyl 6-methyl 5-oxo-3,4,5,10-tetrahydrobenzo[b][1,7]naphthyridine-2,6(1H)-dicarboxylate | 0.55 g | O=C1C2=C(NC=3CN(CCC13)C(=O)OC(C)(C)C)C=CC=C2C(=O)OC | C19H22N2O5
reactant | hydrazine hydrate | 2.5 mL | O.NN
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
reactant | water | 30 mL | O | H2O
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Tert-butyl 3-oxo-7,8,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridine-9(3H)-carboxylate | 110 mg, 21% | O=C1NN=C2C3=C(NC=4CN(CCC24)C(=O)OC(C)(C)C)C=CC=C13 | C18H20N4O3
